US06492355B1
c) 2-Chloro-5-(1-piperazinylmethyl)-N-(2-tricyclo[3.3.1.13,7]dec-1-ylethyl)-benzamide, hydrochloride salt
4-[[4-chloro-3-[[(2-tricyclo[3.3.1.13,7]dec-1-ylethyl)amino]carbonyl]phenyl]methyl]-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester, (Example 18b, 0.270 g) was dissolved in methanol (3 ml), 4N HCl in dioxane (2 ml) was added and the mixture stirred for 14 h at room temperature. The solvent was removed under vacuum and the resulting solid was triturated with ether to afford the title compound as a white powder (0.207 g).

reactant | 4-[[4-chloro-3-[[(2-tricyclo[3.3.1.13,7]dec-1-ylethyl)amino]carbonyl]phenyl]methyl]-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester | ClC1=C(C=C(C=C1)CN1CCN(CC1)C(=O)OC(C)(C)C)C(=O)NCCC12CC3CC(CC(C1)C3)C2 | C29H42ClN3O3
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-5-(1-piperazinylmethyl)-N-(2-tricyclo[3.3.1.13,7]dec-1-ylethyl)-benzamide, hydrochloride salt | 0.207 g | Cl.ClC1=C(C(=O)NCCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)CN1CCNCC1 | InChI=1S/C24H34ClN3O.ClH/c25-22-2-1-17(16-28-7-5-26-6-8-28)12-21(22)23(29)27-4-3-24-13-18-9-19(14-24)11-20(10-18)15-24;/h1-2,12,18-20,26H,3-11,13-16H2,(H,27,29);1H
